US06627099B2
Into methylene chloride (83 ml) was dissolved the resultant IM-4 (25 g, 80.5 mmol) obtained as described above, and to this was added dropwise chlorosulfonic acid (8.3 ml) at room temperature. After this mixture was stirred for an hour at room temperature, to the reaction system were added dropwise at a low speed dimethylacetoamide (90 ml)/acetonitrile (45 ml). To this was added dropwise oxy-salt phosphor (15 ml) while being heated and refluxed. After this mixture was heated and refluxed for an hour, hexane (150 ml) was added, then, the mixture was stirred and stood still, and thereafter, the upper layer of hexane was separated and concentrated. The concentrated substances were refined with silica gel column chromatography to obtain 21 g of IM-5.

reactant | methylene chloride | 83 ml | C(Cl)Cl | CH2Cl2
reactant | IM-4 | 80.5 mmol, 25 g | CN1C=C(C2=CC=CC=C21)C3=C(C(=O)N(C3=O)C)Br | C14H11BrN2O2
reactant | chlorosulfonic acid | 8.3 ml | ClS(=O)(=O)O | ClHO3S
reactant | dimethylacetoamide | 90 ml | CC(C(=O)N)C | C4H9NO
reactant | hexane | 150 ml | CCCCCC | C6H14
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | IM-5 | 21 g | CN1C=C(C2=CC=CC=C21)C3=C(C(=O)N(C3=O)C)C4=CC=CC=C4 | C20H16N2O2
